US04857513
To a solution of tetraethyl(phenylsulfonylaminomethylene)bis(phosphonate) (400 mg) in methylene chloride (4 ml), was added iodotrimethylsilane (0.8 ml) dropwise with stirring under nitrogen gas atmosphere in an ice-water bath. The mixture was stirred for 30 minutes at the same condition and then at ambient temperature for 1.5 hours. To the reaction mixture were added water (10 ml) and chloroform (8 ml) under ice-water bath cooling. The separated aqueous layer was washed with chloroform until its color disappeared and then evaporated in reduced pressure. The residue was washed with ethanol to give white powder of (phenylsulfonylaminomethylene)bis(phosphonic acid) (194 mg).

reactant | tetraethyl(phenylsulfonylaminomethylene)bis(phosphonate) | 400 mg | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)NS(=O)(=O)C1=CC=CC=C1 | C15H27NO8P2S
reactant | iodotrimethylsilane | 0.8 ml | I[Si](C)(C)C | C3H9ISi
reactant | water | 10 ml | O | H2O
reactant | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (phenylsulfonylaminomethylene)bis(phosphonic acid) | 194 mg | C1(=CC=CC=C1)S(=O)(=O)NC(P(O)(O)=O)P(O)(O)=O | C7H11NO8P2S
